US08563546B2
Synthesis of 1-((6-chloropyridin-3-yl)methyl)-10-nitro-1,2,3,4,6,7,8,9-octahydro-6,9-epoxypyrimido[1,2-a]azepine (Compound 61)
To a 50 ml round bottom flask was added 1.34 g (0.005 mol) (E)-1-((6-chloropyridin-3-yl)methyl)-2-(nitromethylene)-hexahydropyrimidine, 30 ml dry acetonitrile and 0.860 g (0.01 mol) succinaldehyde and catalytic concentrated Hl. The reaction was stirred at r.t. and monitored by TLC. After completion, the mixture was evaporated to remove solvent and purified by column chromatography to afford final product as faint yellow powder with 38% yield.

reactant | (E)-1-((6-chloropyridin-3-yl)methyl)-2-(nitromethylene)-hexahydropyrimidine | 0.005 mol, 1.34 g | ClC1=CC=C(C=N1)CN1/C(/NCCC1)=C/[N+](=O)[O-] | C11H13ClN4O2
reactant | succinaldehyde | 0.01 mol, 0.860 g | C(CCC=O)=O | C4H6O2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-((6-chloropyridin-3-yl)methyl)-10-nitro-1,2,3,4,6,7,8,9-octahydro-6,9-epoxypyrimido[1,2-a]azepine | 38% yield | ClC1=CC=C(C=N1)CN1CCCN2C1=C(C1CCC2O1)[N+](=O)[O-] | C15H17ClN4O3
